US05376681
Methyl 3-[5-amino-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran-2-yl]acrylate hydrochloride
3-[5-Acetylamino-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran-2-yl] acrylic acid ethyl ester (0.5 g, 1.58 mmol) was dissolved in methanol (5 ml). Conc. hydrochloric acid (5 ml) was added to the solution and the mixture was heated under reflux for 1 hour. The reaction mixture was cooled and the crystals precipitated were filtered. The crude crystals obtained were recrystallized from ethanol-isopropyl ether to obtain the desired compound (0.35 g, yield: 74.7% yield), m.p. 225°-234° C. (dec.).

reactant | 3-[5-Acetylamino-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran-2-yl] acrylic acid ethyl ester | 1.58 mmol, 0.5 g | C(C)OC(C=CC1(OC2=C(C1)C(=C(C(=C2C)C)NC(C)=O)C)C)=O | C19H25NO4
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | Methyl 3-[5-amino-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran-2-yl]acrylate hydrochloride | 0.35 g, yield: 74.7% yield | Cl.NC=1C(=C(C2=C(CC(O2)(C)C=CC(=O)OC)C1C)C)C | InChI=1S/C16H21NO3.ClH/c1-9-10(2)15-12(11(3)14(9)17)8-16(4,20-15)7-6-13(18)19-5;/h6-7H,8,17H2,1-5H3;1H
